US09340538B2
Step A: Diethyl 2-((4-benzylmorpholin-3-yl)methyl)malonate
Diethyl malonate (1.78 g, 11.1 mmol), DMF (25 mL), sodium hydroxide (0.22 g, 5.55 mmol) and 4-benzyl-3-(bromomethyl)morpholine (1 g, 3.7 mmol) (The compound was synthesized according to the procedure as described in Helvetica Chimica Acta, 87, 2004) were added to a dried flask in turn. The mixture was stirred at 80° C. for 4 hours under N2, and cooled to 25° C. The reaction mixture was diluted with EtOAc (200 mL). The organic layer was washed with brine (100 mL×6), dried over unhydrous Na2SO4. The crude product was purified by a silica gel column chromatography (PETROLEUM ETHER/EtOAc (V/V)=15/1) to give the title compound as colorless oil (1.15 g, 89%). The compound was characterized by the following spectroscopic data:

reactant | Diethyl malonate | 11.1 mmol, 1.78 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
reactant | sodium hydroxide | 5.55 mmol, 0.22 g | [OH-].[Na+]
reactant | 4-benzyl-3-(bromomethyl)morpholine | 3.7 mmol, 1 g | C(C1=CC=CC=C1)N1C(COCC1)CBr | C12H16BrNO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | Diethyl 2-((4-benzylmorpholin-3-yl)methyl)malonate | 1.15 g, 89% | C(C1=CC=CC=C1)N1C(COCC1)CC(C(=O)OCC)C(=O)OCC | C19H27NO5
